US06093731
A solution of NaOH (1 mL, 2 M, 2 mmol) was added to a solution of N-[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]-D-alanine methyl ester (17 mg, 0.044 mmol) in MeOH (3 mL) and the mixture was heated at 60° C. for 18 h. The cooled mixture was neutrilised with dilute HCl (2 M), the MeOH was evaporated in vacuo, and the residue triturated with water (10 mL). The solid was collected by filtration, with water washing, and dried under high vacuum to give N-[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]-D-alanine hydrochloride (9 mg, 0.021 mmol) as an off-white powder.

reactant | NaOH | 2 mmol, 2 M, 1 mL | [OH-].[Na+]
reactant | N-[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]-D-alanine methyl ester | 0.044 mmol, 17 mg | COC([C@H](NS(=O)(=O)C1=CC=C2C(=CN=C(C2=C1)NC(=N)N)Cl)C)=O | C14H16ClN5O4S
reactant | HCl | 2 M | Cl | ClH
solvent | MeOH | 3 mL | CO | CH4O
product | N-[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]-D-alanine hydrochloride | 0.021 mmol, 9 mg | Cl.ClC1=CN=C(C2=CC(=CC=C12)S(=O)(=O)N[C@H](C)C(=O)O)NC(=N)N | InChI=1S/C13H14ClN5O4S.ClH/c1-6(12(20)21)19-24(22,23)7-2-3-8-9(4-7)11(18-13(15)16)17-5-10(8)14;/h2-6,19H,1H3,(H,20,21)(H4,15,16,17,18);1H/t6-;/m1./s1
